US04837003
A solution of [((6-cyanohexyl)imino)bis(ethylenenitrilo)]tetraacetic acid (0.85g, 0.0019 mol) in acetic acid (50 ml) was treated with platinum oxide (0.15g) and hydrogenated at 45 psi overnight. The catalyst was removed by filtration through celite and the filter pad was rinsed with water. The solvent was removed under reduced pressure to yield crude product, which was chromatographed on a Bio Rad AG 1×8 ion exchange resin in the formate form. Elution with water gave pure [((7-aminoheptyl)imino)bis(ethylenenitrilo)]tetraacetic acid (0.70g, 82%). The product was one spot on tlc. The proton and carbon nmr spectra were consistent with the assigned structure.

reactant | [((6-cyanohexyl)imino)bis(ethylenenitrilo)]tetraacetic acid | 0.0019 mol, 0.85g | C(#N)CCCCCCN(CCN(CC(=O)O)CC(=O)O)CCN(CC(=O)O)CC(=O)O | C19H32N4O8
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 0.15g | [Pt]=O
product | [((7-aminoheptyl)imino)bis(ethylenenitrilo)]tetraacetic acid | 0.70g, 82% | NCCCCCCCN(CCN(CC(=O)O)CC(=O)O)CCN(CC(=O)O)CC(=O)O | C19H36N4O8
